US08426422B2
methyl 4-fluoro-2-phenethylbenzoate
Methyl 2-bromo-4-fluorobenzoate (1.00 g), (E)-styrylboronic acid (0.89 g), tetrakis(triphenylphosphine)palladium(0) (0.50 g), and K3PO4 (2.28 g) were stirred in dioxane (17 mL) at 90° C. for 24 hours. The reaction mixture was chromatographed on silica gel with 1-5% ethyl acetate/hexanes. The product in methanol (10 ml) was added to 20 wt % of fresh dry 5% Pd-C and stirred 4 days with H2 in a pressure bottle. The mixture was filtered through a nylon membrane and concentrated.

reactant | Methyl 2-bromo-4-fluorobenzoate | 1.00 g | BrC1=C(C(=O)OC)C=CC(=C1)F | C8H6BrFO2
reactant | (E)-styrylboronic acid | 0.89 g | C(=C\C1=CC=CC=C1)/B(O)O | C8H9BO2
reactant | K3PO4 | 2.28 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 17 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.50 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-fluoro-2-phenethylbenzoate | FC1=CC(=C(C(=O)OC)C=C1)CCC1=CC=CC=C1 | C16H15FO2
